US07732365B2
(−)-1-Methoxy-4-(1-propylallyloxy)benzene:
The general procedure was followed with lithium 4-methoxyphenoxide (260 mg, 2.0 mmol) and 2-hexenyl methylcarbonate (160 mg, 1.0 mmol) in THF (2 mL). The reaction was conducted at 50° C. for 14 h. 1H NMR analysis of the mixture indicated the ratio of regioisomers to be 90/10. The residue was purified by flash chromatography on silica gel (1% Et2O/Hexanes) to afford 155 mg of the title compound as an oil. [73%, Rf 0.82 (5% Et2O/Hexanes)].[α]D20−8.2 (c 0.6, CHCl3). 1H NMR (500 MHz, CDCl3) δ 6.88 (d, J=9.3 Hz, 2H), 6.84 (d, J=9.2 Hz, 2H), 5.87 (ddd, J=17.3, 10.6, 6.3 Hz, 1H), 5.25 (d, J=17.3 Hz, 1H), 5.21 (d, J=10.6 Hz, 1H), 4.51 (q, J=6.4 Hz, 1H), 3.80 (s, 3H), 1.81 (m, 1H), 1.66 (m, 1H), 1.56-1.46 (m. 2H), 1.00 (t, J=7.3 Hz, 3H); 13C NMR (125.77 MHz, CDCl3) δ 153.8 (C), 152.5 (C), 138.5 (CH), 117.3 (CH), 116.2 (CH2), 114.4 (CH), 79.9 (CH), 55.6 (CH3), 37.7 (CH2), 18.5 (CH2), 13.9 (CH3); Anal. Calc. for C13H8O2: C, 75.69; H, 8.80. Found: C, 75.90, H, 9.07. HPLC analysis indicated an enantiomeric excess of 85% [Chiralcel® OD-H column, eluting with 99.9:0.1 hexane/i-PrOH, 0.6 mL/min, 220 nm; major enantiomer tR, 24.5, minor enantiomer tR 27.6 min].

reactant | lithium 4-methoxyphenoxide | 2.0 mmol, 260 mg | COC1=CC=C([O-])C=C1.[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (−)-1-Methoxy-4-(1-propylallyloxy)benzene | 155 mg | COC1=CC=C(C=C1)OC(C=C)CCC | C13H18O2
